US05776983
To a -20° C. CH2Cl2 (100 mL) solution of N-[1-(4-methoxyphenyl)-2-(4-fluorophenyl)ethyl]formamide (1.6 g, 5.86 mmol) (for preparation see step A of Example 48) was added 11 mL of 1N BBr3 in hexane. After warming to 0° C. and stirring for one hour, an additional 5 mL of BBr3 solution was added. After 40 minutes, the reaction was complete by HPLC analysis. The reaction was quenched upon transferal into a stirred 4° C. aqueous NaHCO3 solution and extracted with CH2Cl2 (3×). The organic phases were washed with pH 4 NaH2PO4, brine, dried over Na2SO4 and concentrated to yield 1.4 g of N-[1-(4-hydroxyphenyl)-2-(4-fluorophenyl)ethyl]formamide as a yellow solid. To a 50° C. DMF (10 mL) containing benzyl bromide (400 mg, 2.3 mmol) and N-[1-(4-hydroxyphenyl)-2-(4-fluorophenyl)ethyl]formamide (450 mg, 1.7 mmol) under N2 was added 60% NaH (200 mg, 5 mmol). After one hour the reaction was quenched with H2O, extracted with EtOAc (3×). The organic phases were washed with H2O (3×), brine, dried over Na2SO4 and concentrated to yield 1 g of crude product. Flash chromatography on silica gel using 1:1 EtOAc/hexane eluted 300 mg of N-[1-(4-phenylmethoxyphenyl)-2-(4-fluorophenyl)ethyl]formamide. A 1:1 ETOH/H2O solution (10 mL) containing N-[1-(4-phenylmethoxyphenyl)-2-(4-fluorophenyl)ethyl]formamide (300 mg, 0.86 mmol) and NaOH (200 mg, 5 mmol) was refluxed for 40 hours, diluted with H2O and extracted 3× with EtOAc. The organic phases were washed with H2O (3×), brine, dried over Na2SO4 and concentrated to yield 290 mg of α-(4-phenylmethoxyphenyl)-4-fluorobenzeneethanamine.

reactant | benzyl bromide | 2.3 mmol, 400 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N-[1-(4-hydroxyphenyl)-2-(4-fluorophenyl)ethyl]formamide | 1.7 mmol, 450 mg | OC1=CC=C(C=C1)C(CC1=CC=C(C=C1)F)NC=O | C15H14FNO2
reactant | NaH | 5 mmol, 200 mg | [H-].[Na+]
reactant | N-[1-(4-phenylmethoxyphenyl)-2-(4-fluorophenyl)ethyl]formamide | 0.86 mmol, 300 mg | C1(=CC=CC=C1)COC1=CC=C(C=C1)C(CC1=CC=C(C=C1)F)NC=O | C22H20FNO2
reactant | NaOH | 5 mmol, 200 mg | [OH-].[Na+]
solvent | H2O | O | H2O
solvent | H2O | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | α-(4-phenylmethoxyphenyl)-4-fluorobenzeneethanamine | 290 mg | C1(=CC=CC=C1)COC1=CC=C(C=C1)C(CC1=CC=C(C=C1)F)N | C21H20FNO
